US06881733B1
A solution of 5.03 gm (39.1 mMol) 3-chlorophenol in 20 mL dichloromethane was cooled in an ice bath as 6.25 gm (39.1 mMol) bromine were added dropwise. The reaction mixture was allowed to warm to room temperature and was stirred for 16 hours. The reaction mixture was diluted with water, the phases separated, and the organic phase dried over magnesium sulfate. The residue was subjected to silica gel chromatography, eluting with 3:2 dichloromethane:hexanes. Fractions containing product were combined and concentrated under reduced pressure to provide 2.04 gm (25%) of 2-bromo-5-chlorophenol.

reactant | 3-chlorophenol | 39.1 mMol, 5.03 gm | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | bromine | 39.1 mMol, 6.25 gm | BrBr | Br2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-bromo-5-chlorophenol | 2.04 gm, 25% | BrC1=C(C=C(C=C1)Cl)O | C6H4BrClO
